US08252810B2
(1) 7-Methyl-thiazolo[3,2-a][1,3,5]triazine-2,4-dione
A mixture of 2-amino-5-methylthiazole (2.0 g), diphenyl imidodicarbonate (CAS 99911-94-1) (4.5 g) and 1,4-dioxane (40 ml) was heated to reflux for 8 hours. After standing to cool, the precipitate was collected by filtration to obtain the title compound (3.00 g).

reactant | 2-amino-5-methylthiazole | 2.0 g | NC=1SC(=CN1)C | C4H6N2S
reactant | diphenyl imidodicarbonate | 4.5 g | C(=O)(OC1=CC=CC=C1)NC(=O)OC1=CC=CC=C1 | C14H11NO4
solvent | 1,4-dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | 7-Methyl-thiazolo[3,2-a][1,3,5]triazine-2,4-dione | 3.00 g | CC1=CN2C(=NC(NC2=O)=O)S1 | C6H5N3O2S
